US09371317B2
Synthesis of N-(1-(2-cyano-3-(sulfamoylamino)phenoxy)-2-methylpropan-2-yl)isonicotinamide
To a solution of N-(1-(3-amino-2-cyanophenoxy)-2-methylpropan-2-yl)isonicotinamide (10.76 g, 34.67 mmol) in DMA (35 mL) was added sulfamoyl chloride (7.98 g, 69.34 mmol) at room temperature under nitrogen. The reaction mixture was then stirred at room temperature under nitrogen overnight. The resulting solution was poured into 200 mL of ice cooled NaHCO3 aqueous and stirred for 30 minutes, the precipitate was collected by filtration, after dry obtained 12.2 g of clean product as an off white solid in 90% yield. 1H NMR (400 MHz, DMSO-d6) δ 1.47 (s, 6H), 4.32 (s, 2H), 6.93 (d, J=8.8 Hz, 1H), 7.12 (d, J=8.0 Hz, 1H), 7.23 (s, 2H), 7.53 (t, J=8.8 Hz, 1H), 7.67 (d, J=6 Hz, 2H), 8.29 (s, 1H), 8.66 (d, J=6.4 Hz, 2H), 9.45 (s, 1H). MS 390 (MH+).

reactant | N-(1-(3-amino-2-cyanophenoxy)-2-methylpropan-2-yl)isonicotinamide | 34.67 mmol, 10.76 g | NC=1C(=C(OCC(C)(C)NC(C2=CC=NC=C2)=O)C=CC1)C#N | C17H18N4O2
reactant | sulfamoyl chloride | 69.34 mmol, 7.98 g | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMA | 35 mL | CC(=O)N(C)C | C4H9NO
product | N-(1-(2-cyano-3-(sulfamoylamino)phenoxy)-2-methylpropan-2-yl)isonicotinamide | 12.2 g, 90% yield | C(#N)C1=C(OCC(C)(C)NC(C2=CC=NC=C2)=O)C=CC=C1NS(N)(=O)=O | C17H19N5O4S
